US07067540B2
3-Bromo-4-[(2,4-difluorobenzyl)oxy]-1-{[5-(methoxymethyl)pyrazin-2-yl]methyl}-6-methylpyridin-2(1H)-one
To a solution of 3-Bromo-4-[(2,4-difluorobenzyl)oxy]-1-{[5-(hydroxymethyl)pyrazin-2-yl]methyl}-6-methylpyridin-2(1H)-one (0.35 g, 0.00078 mol) in DMF at 0° C., was added NaH (0.022 g, 0.00092 mol) and stirred for 10 min. Iodomethane (0.05 mL) was added to the reaction and the mixture was stirred at 10° C. for 3 h. DMF was distilled in vacuo and the residue was partitioned between 5% citric acid and EtOAc (15.0 mL). The organic phase was washed with water, dried (Na2SO4) and concentrated to dryness. The residue was purified by flash chromatography (EtOAc), and the appropriate fractions were combined and concentrated to a pale yellow powder.

reactant | 3-Bromo-4-[(2,4-difluorobenzyl)oxy]-1-{[5-(hydroxymethyl)pyrazin-2-yl]methyl}-6-methylpyridin-2(1H)-one | 0.00078 mol, 0.35 g | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC1=NC=C(N=C1)CO)=O | C19H16BrF2N3O3
reactant | NaH | 0.00092 mol, 0.022 g | [H-].[Na+]
reactant | Iodomethane | 0.05 mL | IC | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Bromo-4-[(2,4-difluorobenzyl)oxy]-1-{[5-(methoxymethyl)pyrazin-2-yl]methyl}-6-methylpyridin-2(1H)-one | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC1=NC=C(N=C1)COC)=O | C20H18BrF2N3O3
